US07632838B2
Amidation of 4-(3,4-dichloro-benzenesulfonyl)-piperazin-2-one (150 mg, 0.49 mmol) with 2-bromo-3-trifluoromethyl pyridine (164.5 mg, 0.73 mmol) was carried out according to a similar procedure described for example 15A using powdered anhydrous potassium carbonate (134.1 mg, 0.97 mmol) as base, CuI (9.2 mg, 0.049 mmol) as catalyst, N,N′-dimethyl-1,2-ethylenediamine (5.2 μL, 0.049 mmol) as ligand, and anhydrous 1,4-dioxane (1.8 mL) as solvent. 4-(3,4-dichloro-benzenesulfonyl)-1-(3-trifluoromethyl-pyridin-2-yl)-piperazin-2-one was obtained in 10% yield (21 mg) as an off-white solid.

reactant | 4-(3,4-dichloro-benzenesulfonyl)-piperazin-2-one | 0.49 mmol, 150 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1CC(NCC1)=O | C10H10Cl2N2O3S
reactant | 2-bromo-3-trifluoromethyl pyridine | 0.73 mmol, 164.5 mg | BrC1=NC=CC=C1C(F)(F)F | C6H3BrF3N
reactant | potassium carbonate | 0.97 mmol, 134.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethyl-1,2-ethylenediamine | 0.049 mmol, 5.2 μL | CNCCNC | C4H12N2
catalyst | CuI | 0.049 mmol, 9.2 mg | [Cu]I
solvent | 1,4-dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
product | 4-(3,4-dichloro-benzenesulfonyl)-1-(3-trifluoromethyl-pyridin-2-yl)-piperazin-2-one | 10% yield | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1CC(N(CC1)C1=NC=CC=C1C(F)(F)F)=O | C16H12Cl2F3N3O3S
